* C:\Users\Stephen Johnston\Desktop\School Stuff\Quarter 8\ECE411\amplifier_circuit_input.asc
Q1 N003 N004 N006 0 2N3904
R1 N006 0 100
R2 N004 0 2.5k
R3 N001 N004 6000
R4 N001 N003 500
C1 N006 0 100µ
C2 N004 Vin 1µ
V1 Vin N007 SINE(0 10m 60)
V2 N001 0 5
Q2 N002 N003 N005 0 2N3904
R5 N005 0 500
R6 N001 N002 1000
C3 N005 0 100µ
R7 Vout 0 10k
C4 Vout N002 1µ
R8 N002 N003 5000
R9 N007 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Stephen Johnston\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 100m 10m
.backanno
.end
